Name:  ___.                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
chest pain
 
Major Surgical or Invasive Procedure:
cardiac catheterization performed ___

 
History of Present Illness:
___ y/o M past medical history of CAD s/p stent to proximal RCA 
in ___, HTN, HLD, who developed acute onset chest pain at home. 
Pt states he was experiecing left axilary pain which ran along 
the side of his left ribcage. It began when he was lying in bed 
and migrated up to his left shoulder. He tried 3 SL nitro pills 
without resolution of pain. He has had similar twinges of pain 
lasting only seconds in the last several days but this pain was 
different in its duration.
.
In the ___ ED, initial vitals were 98.1 64 144/49 16 98%. He 
recieved nitro and chest pain began improving. Then EKG was done 
which showed STE in multiple leads, predominantly inferiorly in 
II, aVF. Pt received ASA 81, clopidogrel 300, and IV heparin was 
started.
Code STEMI was called and pt went to cath lab immediately. A 
right radial approach revealed completely clean coronaries 
including patent stent. Repeat EKG in lab showed resolution of 
STE, and pt remained CP free since. Pt was transferred to ___ 
for further monitoring.
.
Of note, his last visit to primary care ___ NP noted that his 
BP had been trending up recently (140-150s) and had planned to 
decrease salt in his diet and exercise more.  Most recent TTE 
___ demonstrated no significant changes from prior. There 
was a small secundum ASD with resting left-to-right shunt. There 
was normal biventricular size and global/regional systolic 
function, with mild mitral regurgitation and mild pulmonary 
hypertension. 
.  
On arrival to the floor, patient very calm and appropriate. 
Denies pain or shortness of breath. States he feels in his usual 
state of health.
.  
REVIEW OF SYSTEMS  
On review of systems, he denies any prior history of stroke, 
TIA, deep venous thrombosis, pulmonary embolism, bleeding at the 
time of surgery, myalgias, joint pains, cough, hemoptysis, black 
stools or red stools. He denies recent fevers, chills or rigors. 
He denies exertional buttock or calf pain. All of the other 
review of systems were negative.  
.  
Cardiac review of systems is notable for absence of chest pain, 
dyspnea on exertion, paroxysmal nocturnal dyspnea, orthopnea, 
ankle edema, palpitations, syncope or presyncope.  
.  

 
Past Medical History:
Past Medical History: 
-Coronary artery disease status post PCI in ___.
-Mitral regurgitation (mild).
-ASD.
-Hypertension
-BPH
-hyperlipidemia

Past Surgical History:
right inguinal hernia repair right ___
basal cell CA of nose resected x 2

 
Social History:
___
Family History:
M died ___ with stroke, CAD. 2 brothers and other family members 
with CAD
 
Physical Exam:
ON ADMISSION:
PHYSICAL EXAMINATION:  
VS: T=98.1 BP=132/62 HR=56 RR=18 O2 sat= 100% RA 
GENERAL: Well appearing male in NAD. Oriented x3. Mood, affect 
appropriate.  
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa. No xanthalesma.  

NECK: Supple without discernable JVD.  
CARDIAC: PMI located in ___ intercostal space, midclavicular 
line. rate is slow but regular. normal S1, S2. No m/r/g. No 
thrills, lifts. No S3 or S4.  
LUNGS: No chest wall deformities, pt is very thin with prominent 
ribs. Resp were unlabored, no accessory muscle use. CTAB, no 
crackles, wheezes or rhonchi.  
ABDOMEN: Soft, NTND. No HSM or tenderness. Abd aorta not 
enlarged by palpation. No abdominial bruits.  
EXTREMITIES: trace pedal edema around the ankles.  
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.  
PULSES:  
Right: Carotid 2+  DP 2+ ___ 2+  
Left: Carotid 2+  DP 2+ ___ 2+  
.
AT DISCHARGE:
VS: T=98.1 BP=132/62 HR=56 RR=18 O2 sat= 100% RA 
Exam otherwise unchanged.
 
Pertinent Results:
ADMISSION LABS:
___ 03:05PM BLOOD WBC-13.9* RBC-4.17* Hgb-13.5* Hct-37.4* 
MCV-90 MCH-32.4* MCHC-36.1* RDW-12.3 Plt ___
___ 03:05PM BLOOD Neuts-89.5* Lymphs-5.5* Monos-4.8 Eos-0.1 
Baso-0.1
___ 03:05PM BLOOD ___ PTT-29.2 ___
___ 03:05PM BLOOD Glucose-111* UreaN-21* Creat-0.9 Na-130* 
K-3.9 Cl-93* HCO3-25 AnGap-16
THE ABOVE LABS STABLE AT DISCHARGE.
.
CARDIAC ENZYMES:
___ 03:05PM BLOOD CK(CPK)-86
___ 07:28PM BLOOD CK(CPK)-80
___ 03:05PM BLOOD CK-MB-3
___ 03:05PM BLOOD cTropnT-<0.01
___ 07:28PM BLOOD CK-MB-2 cTropnT-<0.01
.
CARDIAC CATH ___:  
Left ventriculography demonstrated normal wall motion, preserved
LVEF and 2+ MR.
___ angiography:  right dominant
LMCA:  No angiographically-apparent CAD.
LAD:  Mild tortuosity
LCX:  Supplies high OM and diminutive AVG
RCA:  Large superdominant vessel.  Mild disease and widely 
patent stent with 10% ISR. And proximal 30% diffuse disease
.
Last Echo:
TTE ___
The left atrium is mildly dilated. A left-to-right shunt across 
the interatrial septum is seen at rest. A small secundum atrial 
septal defect is present. Left ventricular wall thickness, 
cavity size and regional/global systolic function are normal 
(LVEF >55%). Right ventricular chamber size and free wall motion 
are normal. The diameters of aorta at the sinus, ascending and 
arch levels are normal. The aortic valve leaflets (3) are mildly 
thickened but aortic stenosis is not present. Trace aortic 
regurgitation is seen. The mitral valve leaflets are mildly 
thickened. There is no mitral valve prolapse. An eccentric, 
posteriorly-directed jet of mild (1+) mitral regurgitation is 
seen. There is mild pulmonary artery systolic hypertension. 
There is no pericardial effusion. 
IMPRESSION: Small secundum ASD without morphologic evidence of 
clinically-significant Qp:Qs. Normal biventricular size and 
global/regional systolic function. Mild mitral regurgitation. 
Mild pulmonary hypertension. 
.

 
Brief Hospital Course:
REASON FOR HOSPITAL ADMISSION:
.
___ y/o M h/o CAD s/p stent to proximal RCA ___, HTN, HL, p/w 
acute onset chest pain, found to have STE in inferior leads, 
transferred to ___ for cardiac cath. 
.

HOSPITAL COURSE: 
.
#Unstable Angina- Pt presented with chest pain; on arrival was 
taken to cath and found to have completely clean coronaries. Pt 
with history of CAD s/p RCA stent ___. Pt had not been having 
chest pain at home until the night prior to admission and has 
not had to use nitroglycerin at home in many years. Pain began 
at rest which pointed away from a cardiac etiology. It was 
relieved with nitro in the ED, but EKG showed changes c/w 
inferior wall ischemia. Cath revealed clean coronaries, 
follow-up EKG showing the majority of EKG changes had resolved. 
Pericarditis was considered in the differential, or possibly a 
small clot that had auto-lysed or travelled more distally. It 
was felt that the most convincing explanation was a vasospastic 
process as he did exhibit self-reversing ST elevations (duly 
noted that vasospasm classically occurs in young women. Still, 
pt's amlodipine was uptitrated and home atenolol discontinued in 
favor of imdur for blood pressure control. Home aspirin was 
continued as well. In the future should pt have continued chest 
pain or ST changes would give consideration to vasospastic 
angina.
.
#CAD - h/o CAD s/p stent to the proximal RCA in ___. Clean 
coronaries per cath ___. Pt was maintained on aspirin, and 
simvastatin. Home atenolol was discontinued out of concern for 
exacerbating vasospasm. 
.  
#  Hyponatremia - initially with Na of 130. Sodium remained 
stable at this level, pt asx, and it was felt attributable to 
his hydrochlorothiazide with possibly some component of 
decreased PO intake in the setting of chest pain. 
.  
# leukocytosis - pt presented with WBC of 13.9, attributable to 
myocardial ischemia or stress response. Pt did not have any 
localizing signs of infection, WBC trended down immediately and 
he was never febrile. 
.
# HTN - Pt remained normotensive - home amlodipine was 
uptitrated, atenolol DCd in favor of imdur. ___ was discharged 
also on lisinopril (previous home med). 
.  
#GERD - continued home omeprazole.
.
Pt was maintained as FULL CODE throughout the course of this 
hospitalization.

 
Medications on Admission:
1.  Amlodipine 5 mg daily.
2.  Atenolol 50 mg daily.
3.  Hydrochlorothiazide 25 mg daily
5.  Lisinopril 40 mg daily.
6.  Nitroglycerin p.r.n.
7.  Omeprazole 20 mg b.i.d.
8.  Simvastatin 40 mg daily.
9.  Aspirin 81 mg daily.
10. Calcium carbonate - vitamin D3.
11. Multivitamin.
 
Discharge Medications:
1. amlodipine 10 mg Tablet Sig: One (1) Tablet PO once a day.
Disp:*30 Tablet(s)* Refills:*0*
2. hydrochlorothiazide 25 mg Tablet Sig: One (1) Tablet PO once 
a day.  
3. lisinopril 40 mg Tablet Sig: One (1) Tablet PO once a day.  
4. nitroglycerin 0.3 mg Tablet, Sublingual Sig: One (1) Tablet, 
Sublingual Sublingual PRN (as needed) as needed for chest 
pain/sob: can repeat x3 each one 5 minutes apart.  
5. omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO DAILY (Daily).  
6. simvastatin 40 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
7. aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  
8. multivitamin     Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
9. calcium carbonate-vitamin D3 600 mg(1,500mg) -400 unit 
Capsule Sig: One (1) Capsule PO once a day.  
10. Imdur 30 mg Tablet Extended Release 24 hr Sig: One (1) 
Tablet Extended Release 24 hr PO once a day.
Disp:*30 Tablet Extended Release 24 hr(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY
Acute Coronary Syndrome, possible vasospasm

SECONDARY
Hypertension
Hyperlipidemia
Hyponatremia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
It was a pleasure taking care of you during your recent 
hospitalization. You came in with chest pain. Some changes on 
your EKG suggested it might be related to a problem with your 
heart so a cardiac catheterization was performed. This showed 
that you did not have any blockages in the arteries that supply 
your heart. We think that you might have a little bit of 
irritation of the lining around the heart which could cause this 
pain, or also likely is that one of the arteries had a brief 
spasm which constricted blood flow to the heart. 
.
We made the following CHANGES to your medications:
INCREASED amlodipine from 5mg to 10mg. Now take 10mg daily.
STOPPED atenolol
STARTED imdur 30mg daily
.
Please take all other home medications as previously directed.
 
Followup Instructions:
___